US04600780
To a solution of 2.48 g of 3-[3-(1-piperidinylmethyl)phenoxy]-1-propanamine (prepared according to British Pat. No. 2,023,123 which is hereby incorporated by reference) in 25 ml of absolute ethanol, are added dropwise 0.98 g of ethyl N-cyano-formimidate in 15 ml of ethanol, under stirring and at room temperature. Stirring is maintained for 30 minutes, and then the ethanol is removed by underpressure distillation. An oil residue is formed, which is then dissolved in 250 ml of ethyl ether, after which 0.95 ml of 10N HCl/ethanol are added, yielding 1.4 g of N-cyano-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formamidine hydrochloride.

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]-1-propanamine | 2.48 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | ethyl N-cyano-formimidate | 0.98 g | C(#N)N=COCC | C4H6N2O
reactant | HCl ethanol | 10N, 0.95 ml | Cl.C(C)O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethyl ether | 250 ml | C(C)OCC | C4H10O
product | N-cyano-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]formamidine hydrochloride | 1.4 g | Cl.C(#N)NC=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | InChI=1S/C17H24N4O.ClH/c18-14-20-15-19-8-5-11-22-17-7-4-6-16(12-17)13-21-9-2-1-3-10-21;/h4,6-7,12,15H,1-3,5,8-11,13H2,(H,19,20);1H
